US08557840B2
Preparation of 3-(2,6-diethyl-4-methyl-phenyl)-4-hydroxy-1-methyl-1H-[1,8]naphthyridin-2-one (Compound No. D20 of Table D)
To a solution of 2-{[2-(2,6-diethyl-4-methyl-phenyl)-acetyl]-methyl-amino}-nicotinic acid methyl ester (300 mg) in N,N-dimethylformamide (5 ml) was added potassium tert-butoxide (250 mg). The reaction mixture was stirred at ambient temperature for 18 hours, and then at 50° C. for 2 hours. The reaction mixture was partitioned the reaction between water and dichloromethane. The phases were separated and the aqueous phase was extracted with further dichloromethane and ethyl acetate. The aqueous phase was acidified by addition of aqueous hydrochloric acid (2M) and extracted three times with ethyl acetate. The combined organic extracts were dried over magnesium sulfate and concentrated. The residue was passed through a plug of silica eluting with ethyl acetate to give Compound No. D20 of Table D as an off-white solid (320 mg).

reactant | 2-{[2-(2,6-diethyl-4-methyl-phenyl)-acetyl]-methyl-amino}-nicotinic acid methyl ester | 300 mg | COC(C1=C(N=CC=C1)N(C)C(CC1=C(C=C(C=C1CC)C)CC)=O)=O | C21H26N2O3
reactant | potassium tert-butoxide | 250 mg | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(2,6-diethyl-4-methyl-phenyl)-4-hydroxy-1-methyl-1H-[1,8]naphthyridin-2-one | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(C2=NC=CC=C2C1O)C)=O | C20H22N2O2
